US09085555B2
A. [(S)-1-(3-Chloro-2-fluoro-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester
To a solution of (2S)-2-amino-2-(3-chloro-2-fluorophenyl)ethan-1-ol (517 mg, 2.29 mmol) in MeOH (35 mL) were added (Boc)2O (0.54 mL, 2.31 mmol) and sodium carbonate (970 mg, 9.15 mmol) and the reaction mixture was stirred at RT overnight. Organic volatiles were removed and the crude material was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 1:1). TLC, Rf (c-hexane/EtOAc 1:1): 0.55; MS (UPLC/MS): 290.2/292.2 [M+H]+, 334.2/336.3 [M+HCOO]−; tR (HPLC conditions a): 3.36 min.

reactant | (2S)-2-amino-2-(3-chloro-2-fluorophenyl)ethan-1-ol | 2.29 mmol, 517 mg | N[C@H](CO)C1=C(C(=CC=C1)Cl)F | C8H9ClFNO
reactant | (Boc)2O | 2.31 mmol, 0.54 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium carbonate | 9.15 mmol, 970 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeOH | 35 mL | CO | CH4O
product | [(S)-1-(3-Chloro-2-fluoro-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](CO)C1=C(C(=CC=C1)Cl)F)=O | C13H17ClFNO3
